US04387238
Following the procedure of Example 34, monoethyl potassium epoxysuccinate (1.0 g) was successively treated with oxalyl chloride (0.75 g) and N-methylbenzylamine (1.3 g) to give 0.61 g ethyl N-methyl-N-benzyl-2,3-epoxysuccinamate (Compound No. 58) as colorless oil.

reactant | monoethyl potassium epoxysuccinate | 1.0 g | O1C(C(=O)O)C1C(=O)O.C(C)[K]
reactant | oxalyl chloride | 0.75 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-methylbenzylamine | 1.3 g | CNCC1=CC=CC=C1 | C8H11N
product | ethyl N-methyl-N-benzyl-2,3-epoxysuccinamate | 0.61 g | CN(C(C1C(C(=O)OCC)O1)=O)CC1=CC=CC=C1 | C14H17NO4
